US06936602B1
In toluene (25 ml), ethanol (2.5 ml) and water (2.5 ml) were suspended methyl 7-bromo-1-(2-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylate (712 mg), 4-propoxyphenyl borate (416 mg) and potassium carbonate (636 mg), and the suspension was stirred under argon atmosphere for 30 minutes. Then, to the suspension was added tetrakistriphenylphosphinepalladium (143 mg) and the mixture was heated under argon atmosphere at 100° C. for 5 hours. After allowing to cool, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1) to give methyl 7-(4-propoxyphenyl)-1-(2-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylate (663 mg) as yellow oil.

reactant | ethanol | 2.5 ml | C(C)O | C2H6O
reactant | methyl 7-bromo-1-(2-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 712 mg | BrC=1C=CC2=C(C=C(CCN2CC2=C(C=CC=C2)OC)C(=O)OC)C1 | C20H20BrNO3
reactant | 4-propoxyphenyl borate | 416 mg | B(OC1=CC=C(C=C1)OCCC)([O-])[O-]
reactant | potassium carbonate | 636 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakistriphenylphosphinepalladium | 143 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 2.5 ml | O | H2O
product | methyl 7-(4-propoxyphenyl)-1-(2-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 663 mg | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC2=C(C=CC=C2)OC)C(=O)OC)C1 | C29H31NO4
